US05314998
To a stirred solution of 160.6 ml sulfuryl chloride in 1000 ml chloroform in a round bottomed flask equipped with a dropping funnel, thermometer, and magnetic stirrer was added dropwise 139.4 ml triethylamine and 168.5 ml dibutylamine with cooling in an ice-water bath to maintain a temperature of 15°-20° C. After the addition was complete, the reaction mixture was stirred without cooling for an additional hour, then poured into a mixture of ice and water (2000 ml). The chloroform phase was separated and washed with 10% hydrochloric acid (1000 ml) followed by ice cold water. The solution was dried over anhydrous calcium chloride (4-20 mesh). Evaporation of the solvent gave 147.7 g N,N-dibutylsulfonamide as a colorless oil.

reactant | sulfuryl chloride | 160.6 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | triethylamine | 139.4 ml | C(C)N(CC)CC | C6H15N
reactant | dibutylamine | 168.5 ml | C(CCC)NCCCC | C8H19N
reactant | water | 2000 ml | O | H2O
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-dibutylsulfonamide | 147.7 g | C(CCC)N(S(=O)=O)CCCC | C8H19NO2S
